US08912180B2
A mixture of 2-(difluoromethyl)-1-[2-(methylsulfonyl)-6-(morpholin-4-yl)pyrimidin-4-yl]-1H-benzimidazole (200 mg) and methyl[(3S)-1-(trans-4-aminocyclohexyl)-2-oxopyrrolidin-3-yl]carbamate hydrochloride (214 mg), potassium carbonate (135 mg), N-ethyl-N-diisopropylpropan-2-amine (0.38 mL) and N,N-dimethylacetamide (3 mL) was stirred at 100° C. for 6 hours. After leaving to be cooled, to the reaction solution was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The desiccant was removed by filtration and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol-100:0-80:20) to obtain methyl{(3S)-1-[trans-4-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate (102 mg) as a white powder.

reactant | 2-(difluoromethyl)-1-[2-(methylsulfonyl)-6-(morpholin-4-yl)pyrimidin-4-yl]-1H-benzimidazole | 200 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)S(=O)(=O)C)C=CC=C2)F | C17H17F2N5O3S
reactant | methyl[(3S)-1-(trans-4-aminocyclohexyl)-2-oxopyrrolidin-3-yl]carbamate hydrochloride | 214 mg | Cl.CN(C(O)=O)[C@@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)N)=O
reactant | potassium carbonate | 135 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | methyl{(3S)-1-[trans-4-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate | 102 mg | COC(N[C@@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)NC1=NC(=CC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2)=O)=O | C28H34F2N8O4
